US07960563B2
7-Chloro-4-(methyloxy)-1H-indazole (D28)
To a solution of 3-chloro-2-fluoro-6-(methyloxy)benzaldehyde (10 g, 53.0 mmol) in 1,2-dimethoxyethane (105 mL) was added potassium carbonate (8.06 g, 58.3 mmol) and O-methylhydroxylamine hydrochloride (4.43 g, 53.0 mmol) and the mixture was stirred and heated at 45° C. for 4 hrs. After cooling, the mixture was filtered and concentrated to ˜40 mL and hydrazine monohydrate (58.3 mL, 1856 mmol) was added and the reaction was refluxed under argon over the weekend. The mixture was concentrated to 10-15 mL on the rotary evaporator and then poured into water and stirred for 10 mins. The precipitated solid was collected by filtration and washed with water (3×), sucked dry and then dried in the vacuum oven at 60° C. for 1 hr to give the title compound (D28) as an off white solid (8.83 g)

reactant | 3-chloro-2-fluoro-6-(methyloxy)benzaldehyde | 53.0 mmol, 10 g | ClC=1C(=C(C=O)C(=CC1)OC)F | C8H6ClFO2
reactant | potassium carbonate | 58.3 mmol, 8.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | O-methylhydroxylamine hydrochloride | 53.0 mmol, 4.43 g | Cl.CON
reactant | hydrazine monohydrate | 1856 mmol, 58.3 mL | O.NN
solvent | 1,2-dimethoxyethane | 105 mL | COCCOC | C4H10O2
product | 7-Chloro-4-(methyloxy)-1H-indazole | ClC=1C=CC(=C2C=NNC12)OC | C8H7ClN2O
